US07183445B2
To a solution of (1-methyl-3,4-di(4-hydroxy-phenyl)-cyclohex-3-enyl)-methanol (30 mg, 1 eq.) in DMF (1 mL) was added NaH (10 mg, 1 eq.), and the reaction mixture was then stirred for 2 h at 25° C. To the reaction mixture was then added (2-chloro-ethyl)-dimethyl-amine (12 mg, 1 eq) and the mixture stirred for 16 hours. The reaction mixture was then partitioned between H2O/ethyl acetate (5 mL/5 mL). The organic layer was separated, dried over MgSO4, concentrated and purified HPLC (20%˜80% CH3CN/H2O with 0.1% TFA) to yield 4-{2-[4-(2-dimethylamino-ethoxy)-phenyl]-4-hydroxymethyl-4-methyl-cyclohex-1-enyl}-phenol.

reactant | (1-methyl-3,4-di(4-hydroxy-phenyl)-cyclohex-3-enyl)-methanol | 30 mg, 1 eq. | CC1(CC(=C(CC1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)CO | C20H22O3
reactant | NaH | 10 mg, 1 eq. | [H-].[Na+]
reactant | (2-chloro-ethyl)-dimethyl-amine | 12 mg, 1 eq | ClCCN(C)C | C4H10ClN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-{2-[4-(2-dimethylamino-ethoxy)-phenyl]-4-hydroxymethyl-4-methyl-cyclohex-1-enyl}-phenol | CN(CCOC1=CC=C(C=C1)C1=C(CCC(C1)(C)CO)C1=CC=C(C=C1)O)C | C24H31NO3
